US03992535
2-Ethyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid chloride-1,1-dioxide was prepared analogous to Example 55b from 2-ethyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine-1,1-dioxide and phosgene and recovered in the form of a solution in tetrahydrofuran.

reactant | 2-ethyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine-1,1-dioxide | C(C)N1S(C2=C(C(=C1)N1CCCC1)C=CC1=CC=CC=C12)(=O)=O | C18H20N2O2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 2-Ethyl-4-(1-pyrrolidyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid chloride-1,1-dioxide | C(C)N1S(C2=C(C(=C1C(=O)Cl)N1CCCC1)C=CC1=CC=CC=C12)(=O)=O | C19H19ClN2O3S
